US04382929
1-(3-Thienylmethyl)pyrrolidine
A solution of 1-(3-thienylcarbonyl) pyrrolidine (12 g) in dry diethylether (200 ml) was added to a slurry of lithium aluminium hydride (2.6 g) in dry diethylether (100 ml). The mixture was stirred for 1 hour, and aqueous 5 M sodium hydroxide (20 ml) was added. The mixture was filtered and the filtrate was distilled to give the title compound (9.8 g) as a colourless oil. b.p. 120/15 mm.

reactant | 1-(3-thienylcarbonyl) pyrrolidine | 12 g | S1C=C(C=C1)C(=O)N1CCCC1 | C9H11NOS
reactant | lithium aluminium hydride | 2.6 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | sodium hydroxide | 5 M, 20 ml | [OH-].[Na+]
solvent | diethylether | 200 ml | C(C)OCC | C4H10O
solvent | diethylether | 100 ml | C(C)OCC | C4H10O
product | 1-(3-Thienylmethyl)pyrrolidine | 9.8 g | S1C=C(C=C1)CN1CCCC1 | C9H13NS
